US09126945B2
Ethyl 4-chloro-3-(1-fluorocyclopropyl)-1-methyl-1H-pyrazole-5-carboxylate
The preparation was carried out analogously to the preparation of ethyl 4-chloro-3-(1-chlorocyclopropyl)-1-methyl-1H-pyrazole-5-carboxylate using ethyl 3-(1-fluorocyclopropyl)-1-methyl-1H-pyrazole-5-carboxylate and 3 eq of N-chlorosuccinimide

reactant | ethyl 4-chloro-3-(1-chlorocyclopropyl)-1-methyl-1H-pyrazole-5-carboxylate | ClC=1C(=NN(C1C(=O)OCC)C)C1(CC1)Cl | C10H12Cl2N2O2
reactant | ethyl 3-(1-fluorocyclopropyl)-1-methyl-1H-pyrazole-5-carboxylate | FC1(CC1)C1=NN(C(=C1)C(=O)OCC)C | C10H13FN2O2
reactant | N-chlorosuccinimide | 3 eq | ClN1C(CCC1=O)=O | C4H4ClNO2
product | Ethyl 4-chloro-3-(1-fluorocyclopropyl)-1-methyl-1H-pyrazole-5-carboxylate | ClC=1C(=NN(C1C(=O)OCC)C)C1(CC1)F | C10H12ClFN2O2
